US04886809
2 Grams of 6-[4-(4-phenyl-4-aminobutyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril was dissolved in 30 ml of chloroform, then to this solution was added 0.76 ml of isobutyl chloroformate at 0° C.-5° C. The reaction mixture was stirred at the same temperature for 3 hours, then concentrated. The residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol=40:1), then converted into an oxalate by stirring with oxalic acid in acetone, and the oxalate was recrystallized from ethanol-water to yield 1.9 g of 6-[4-(4-phenyl-4-isobutoxycarbonylaminobutyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril.oxalate.

reactant | 6-[4-(4-phenyl-4-aminobutyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C(CCCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)N | C24H30N4O2
reactant | isobutyl chloroformate | 0.76 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[4-(4-phenyl-4-isobutoxycarbonylaminobutyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | 1.9 g | C1(=CC=CC=C1)C(CCCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)NC(=O)OCC(C)C | C29H38N4O4
